US06433175B1
5-Chloro-1-(3-iodopropyl)indole-3-carboxaldehyde
A stirred solution of 5-chloro-1-(3-chloropropyl)indole-3-carboxaldehyde (3.8 g, 15 mmol) and sodium iodide (4.5 g, 30 mmol) in acetonitrile (50 mL) under argon was heated under reflux for 18 h, cooled to room temperature and partitioned between ether (3×30 mL) and water (50 mL). The combined organic extracts were washed (aqueous sodium metabisulfite solution, water, brine), dried (sodium sulfate) and concentrated in vacuo to give the product as a yellow oil (5.0 g, 96%) which was used immediately.

reactant | 5-chloro-1-(3-chloropropyl)indole-3-carboxaldehyde | 15 mmol, 3.8 g | ClC=1C=C2C(=CN(C2=CC1)CCCCl)C=O | C12H11Cl2NO
reactant | sodium iodide | 30 mmol, 4.5 g | [I-].[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-Chloro-1-(3-iodopropyl)indole-3-carboxaldehyde | 5.0 g, 96% | ClC=1C=C2C(=CN(C2=CC1)CCCI)C=O | C12H11ClINO
